US08729068B2
A mixture of 237 mg of methyl 4-(2-{4-[({2-[(3-{[1-(ethoxycarbonyl)cyclopropyl](ethyl)sulfamoyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate, 0.5 mL of a 5.0 M aqueous sodium hydroxide solution, and 2.4 mL of ethanol was heated and refluxed overnight. The reaction mixture was concentrated under reduced pressure, and to the residue were added water, citric acid, dichloromethane, and THF in this order. The organic layer was separated and then concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform-methanol). The obtained crude product was washed with diethyl ether to obtain 142 mg of 4-{2-[4-({[2-({3-[(1-carboxycyclopropyl)(ethyl)sulfamoyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoic acid as a pale yellow crystal.

reactant | methyl 4-(2-{4-[({2-[(3-{[1-(ethoxycarbonyl)cyclopropyl](ethyl)sulfamoyl}benzoyl)amino]-4,5,6,7-tetrahydro-1-benzothiophen-3-yl}carbonyl)amino]phenyl}ethyl)benzoate | 237 mg | C(C)OC(=O)C1(CC1)N(S(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1)CC | C40H43N3O8S2
reactant | sodium hydroxide | 5.0 M | [OH-].[Na+]
solvent | ethanol | 2.4 mL | C(C)O | C2H6O
product | 4-{2-[4-({[2-({3-[(1-carboxycyclopropyl)(ethyl)sulfamoyl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoic acid | 142 mg | C(=O)(O)C1(CC1)N(S(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)O)C=C2)CCCC3)C=CC1)CC | C37H37N3O8S2
